US08541592B2
1-((1R,2S,4R,5S)-5-(tert-Butyldiphenylsilyloxy)bicyclo[2.2.1]heptan-2-yl)thiourea
To a suspension of 2-((1R,2S,4R,5S)-5-(tert- butyldiphenylsilyloxy)bicyclo[2.2.1]-heptan-2-yl)isoindoline-1,3-dione (4.60 g, 9.28 mmol) in ethanol (anhydrous, 100 mL) was added anhydrous hydrazine (0.44 mL, 13.9 mmol). After refluxing under nitrogen for 3 h, the mixture was cooled to ambient temp. The white solid was removed by filtration, and the filtrate was concentrated in vacuo to give an off-white solid, which was stirred with benzoyl isothiocyanate (1.62 mL, 12.1 mmol) in chloroform (100 mL) at ambient temp. overnight. The reaction mixture was diluted with dichloromethane (50 mL) and the solid was removed by filtration. The filtrate was concentrated to give an off-white solid, which was stirred with potassium carbonate (3.85 g, 27.8 mmol) in methanol (100 mL) at ambient temp. for 30 min. The solvents were removed in vacuo, and the residue was partitioned between EtOAc and water. The organic portion was separated, washed with brine, and conc. in vacuo. The residue was purified by flash column chromatography (0 to 60% of EtOAc in hexanes) to give the title compound as a white solid. MS m/z: 425.2 (M+H)+.

reactant | 2-((1R,2S,4R,5S)-5-(tert- butyldiphenylsilyloxy)bicyclo[2.2.1]-heptan-2-yl)isoindoline-1,3-dione | 9.28 mmol, 4.60 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1[C@H]2C[C@@H]([C@@H](C1)C2)N2C(C1=CC=CC=C1C2=O)=O | C31H33NO3Si
reactant | hydrazine | 13.9 mmol, 0.44 mL | NN | H4N2
reactant | benzoyl isothiocyanate | 12.1 mmol, 1.62 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | potassium carbonate | 27.8 mmol, 3.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methanol | 100 mL | CO | CH4O
product | 1-((1R,2S,4R,5S)-5-(tert-Butyldiphenylsilyloxy)bicyclo[2.2.1]heptan-2-yl)thiourea | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1[C@H]2C[C@@H]([C@@H](C1)C2)NC(=S)N | C24H32N2OSSi
